US03994876
The compound 2,3-methylenedioxyphenylalanine, is treated with hydrogen chloride and phosphorous pentachloride in accordance with the procedure described by Hartcastle et al., J. Org. Chem., 31, 897 (1966) for the preparation of phenylglycyl chloride hydrochloride to yield 2,3-methylenedioxyphenylalanyl chloride hydrochloride.

reactant | 2,3-methylenedioxyphenylalanine | C1OC2=C(C[C@H](N)C(=O)O)C=CC=C2O1 | C10H11NO4
reactant | hydrogen chloride | Cl | ClH
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phenylglycyl chloride hydrochloride | Cl.C1(=CC=CC=C1)NCC(=O)Cl
product | 2,3-methylenedioxyphenylalanyl chloride hydrochloride | Cl.C1OC2=C(C[C@H](N)C(=O)Cl)C=CC=C2O1 | InChI=1S/C10H10ClNO3.ClH/c11-10(13)7(12)4-6-2-1-3-8-9(6)15-5-14-8;/h1-3,7H,4-5,12H2;1H/t7-;/m0./s1
